US07732448B2
Into 6 ml of tetrahydrofuran solution of 0.5 g of 2,4,6-trifluoro-5-chloropyrimidine was added dropwise 0.34 g or 3,5-dimethylpiperidine (cis/trans diastereomer=about 4/1) at room temperature, and the mixture was stirred for one-and-half hour at same temperature. The reaction mixture was subjected to silica gel column chromatography to obtain 0.56 g of 5-chloro-2,4-difluoro-6-(3,5-dimethylpiperidino)pyrimidine. This compound had the cis/trans diastereomer originated two ethyls on the pyperidine ring. The ratio of the cis/trans diastereomer was about 5/1.

reactant | 2,4,6-trifluoro-5-chloropyrimidine | 0.5 g | FC1=NC(=C(C(=N1)F)Cl)F | C4ClF3N2
reactant | 3,5-dimethylpiperidine | CC1CNCC(C1)C | C7H15N
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 5-chloro-2,4-difluoro-6-(3,5-dimethylpiperidino)pyrimidine | 0.56 g | ClC=1C(=NC(=NC1N1CC(CC(C1)C)C)F)F | C11H14ClF2N3
